US05011623
Synthesis of 2-methylbutyl 4'-(6-hydroxyhexyloxy)biphenyl-4-carboxylate
2.84 g of 2-methylbutyl 4'-hydroxybiphenyl-4-carboxylate, 4.14 g of potassium carbonate, 4.10 g of 6-chloro-1-hexanol and 4.28 g of potassium iodide were heat-refluxed for 48 hours in acetone. The mixture was subjected to filtration, condensation and purification by column chromatography to obtain 1.31 g of the objective product (yield: 34%).

reactant | 2-methylbutyl 4'-hydroxybiphenyl-4-carboxylate | 2.84 g | OC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)OCC(CC)C | C18H20O3
reactant | potassium carbonate | 4.14 g | C([O-])([O-])=O.[K+].[K+]
reactant | 6-chloro-1-hexanol | 4.10 g | ClCCCCCCO | C6H13ClO
reactant | potassium iodide | 4.28 g | [I-].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | 2-methylbutyl 4'-(6-hydroxyhexyloxy)biphenyl-4-carboxylate | 1.31 g, yield: 34% | OCCCCCCOC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)OCC(CC)C | C24H32O4
